US07518000B2
Oxalyl chloride (0.601 mL, 6.99 mmol, 1.2 eq) is added to a mixture of 3-bromothiophene-2-carboxylic acid (1.20 g, 5.80 mmol), N,N-dimethylformamide (several drops, catalytic amount), and anhydrous dichloromethane (25 mL) at ambient temperature under nitrogen over 20 minutes. The reaction is stirred for 17 hours, purged with nitrogen, and concentrated under reduced pressure to afford a tan solid. The crude 3-bromothiophene-2-carbonyl chloride is dissolved in dichloromethane (25 mL) and added dropwise, over 10 minutes, to a 0° C. solution of N,O-dimethylhydroxylamine hydrochloride (843 mg, 8.64 mmol), diisopropylethylamine (2.50 mL, 14.3 mmol), and dichloromethane (25 mL). The reaction is allowed to gradually warm to ambient temperature overnight. The reaction is washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The crude product is purified by chromatography on silica, eluting with 1:1 ethyl acetate/heptane, to give 3-bromo-thiophene-2-carboxylic acid methoxy-methyl-amide, as a white solid: TLC Rƒ0.33 (silica, 1:1 ethyl acetate/heptane); LC/MS: (M+H 249.94, RT=2.18 minutes); 1H NMR [(CD3)2SO), 300 MHz]: δ 7.85 (d, 1H, J=5.3 Hz), 7.17 (d, 1H, 5.3 Hz), 3.62 (s, 3H), 3.24 (s, 3H).

reactant | Oxalyl chloride | 6.99 mmol, 0.601 mL, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-bromothiophene-2-carboxylic acid | 5.80 mmol, 1.20 g | BrC1=C(SC=C1)C(=O)O | C5H3BrO2S
reactant | 3-bromothiophene-2-carbonyl chloride | BrC1=C(SC=C1)C(=O)Cl | C5H2BrClOS
reactant | N,O-dimethylhydroxylamine hydrochloride | 8.64 mmol, 843 mg | Cl.CNOC
reactant | diisopropylethylamine | 14.3 mmol, 2.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | N,N-dimethylformamide | several drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-bromo-thiophene-2-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1SC=CC1Br)C | C7H8BrNO2S
